US06005116
3-Hydroxy-5-(1-naphthyl)isoxazole
α,β-Dibromo-1-naphthylacrylic acid ethyl ester (6.0 g), hydroxylamine hydrochloride (1.3 g) and sodium hydroxide (7.2 g) were subjected to reaction and post-treatment in a similar manner to that described in Reference example 10(c) to obtain the title compound (2.6 g, 78%) as colorless crystals.

reactant | α,β-Dibromo-1-naphthylacrylic acid ethyl ester | 6.0 g | C(C)OC(C(=C(Br)C1=CC=CC2=CC=CC=C12)Br)=O | C15H12Br2O2
reactant | hydroxylamine hydrochloride | 1.3 g | Cl.NO
reactant | sodium hydroxide | 7.2 g | [OH-].[Na+]
product | 3-Hydroxy-5-(1-naphthyl)isoxazole | 2.6 g, 78% | OC1=NOC(=C1)C1=CC=CC2=CC=CC=C12 | C13H9NO2
